US08497368B2
1-(3-(1-(7-Fluoroquinolin-6-yl)ethyl)imidazo[1,2-b]pyridazin-6-yl)ethanone (29.2)
In a flask was charged with tetrakis-(triphenylphosphine)-palladium (46 mg, 0.040 mmol) under nitrogen. A solution of 6-(1-(6-chloroimidazo[1,2-b]pyridazin-3-yl)ethyl)-7-fluoroquinoline (130 mg, 0.40 mmol) in DMF (5 mL) was added. The system was purged with nitrogen gas three times and tributyl-(1-ethoxy-vinyl)-stannane (0.14 mL, 0.42 mmol) was added. The temperature was increased to 100° C. and stirred for 2 hrs. Then the reaction mixture was cooled to room temperature, 3N HCl was added and the mixture was stirred for additional 4 hrs. Water was added and the mixture was then extracted with EtOAc, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography (3% to 10% MeOH in CH2Cl2) to afford 120 mg (yield: 90) of title compound. LCMS (method B): [MH]+=335, tR=2.41 min.

reactant | 6-(1-(6-chloroimidazo[1,2-b]pyridazin-3-yl)ethyl)-7-fluoroquinoline | 0.40 mmol, 130 mg | ClC=1C=CC=2N(N1)C(=CN2)C(C)C=2C=C1C=CC=NC1=CC2F | C17H12ClFN4
reactant | tributyl-(1-ethoxy-vinyl)-stannane | 0.42 mmol, 0.14 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | HCl | 3N | Cl | ClH
reactant | Water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis-(triphenylphosphine)-palladium | 0.040 mmol, 46 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(3-(1-(7-Fluoroquinolin-6-yl)ethyl)imidazo[1,2-b]pyridazin-6-yl)ethanone | FC1=C(C=C2C=CC=NC2=C1)C(C)C1=CN=C2N1N=C(C=C2)C(C)=O | C19H15FN4O
